US08076336B2
1-(3-Chloro-4,5-dimethoxyphenyl)ethanone
3-Chloro-4,5-dimethoxybenzoic acid (1 g) was converted to the benzamide derivative analogously to O3.043, and the latter to the title compound analogously to O2.059. 495 mg of the title compound were obtained.

reactant | 3-Chloro-4,5-dimethoxybenzoic acid | 1 g | ClC=1C=C(C(=O)O)C=C(C1OC)OC | C9H9ClO4
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
product | 1-(3-Chloro-4,5-dimethoxyphenyl)ethanone | ClC=1C=C(C=C(C1OC)OC)C(C)=O | C10H11ClO3
